US07615568B2
B. 3-[2-(1-t-Butoxycarbonylpyrrolidin-3-ylmethoxy)-4-methylthiobenzoylamino]-N-(5-chloropyridin-2-yl)pyridine-2-carboxamide (Isomer I)
Using a procedure analogous to Example 38-D, 1-t-butoxycarbonylpyrrolidine-3-methanol (Isomer I) and N-(5-chloropyridin-2-yl)-3-[2-hydroxy-4-methylthiobenzoyl-amino]pyridine-2-carboxamide gave the title compound as a solid (1.7 g).

reactant | 1-t-butoxycarbonylpyrrolidine-3-methanol | C(C)(C)(C)OC(=O)N1CC(CC1)CO | C10H19NO3
reactant | N-(5-chloropyridin-2-yl)-3-[2-hydroxy-4-methylthiobenzoyl-amino]pyridine-2-carboxamide | ClC=1C=CC(=NC1)NC(=O)C1=NC=CC=C1NC(C1=C(C=C(C=C1)C)O)=S | C19H15ClN4O2S
product | 3-[2-(1-t-Butoxycarbonylpyrrolidin-3-ylmethoxy)-4-methylthiobenzoylamino]-N-(5-chloropyridin-2-yl)pyridine-2-carboxamide | 1.7 g | C(C)(C)(C)OC(=O)N1CC(CC1)COC1=C(C(=S)NC=2C(=NC=CC2)C(=O)NC2=NC=C(C=C2)Cl)C=CC(=C1)C | C29H32ClN5O4S
